US06818652B2
A solution of 2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptan-1-ol (1.2 g, 4.15 mmole) in 20 mL of THF was treated with 0.69 g of methyl 4-hydroxybenzoate, 1.2 g of triphenylphosphine and 0.72 mL of diethyl azodicarboxylate (DEAD) and heated at reflux for 6 hours. The mixture was diluted with 100 mL of ethyl acetate and washed with two 50 mL portions of water and 50 mL of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The product was purified by flash chromatography (SiO2, 10% ethyl acetate in hexanes) to yield 1.1 g of 4-[2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptyloxy]-benzoic acid methyl ester, as a pale yellow oil.

reactant | 2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptan-1-ol | 4.15 mmole, 1.2 g | CN1CCC(C2=CC=C(C=C12)C(CO)CCCCC)(C)C | C19H31NO
reactant | methyl 4-hydroxybenzoate | 0.69 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.72 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-[2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptyloxy]-benzoic acid methyl ester | 1.1 g | COC(C1=CC=C(C=C1)OCC(CCCCC)C1=CC=C2C(CCN(C2=C1)C)(C)C)=O | C27H37NO3
